US08431695B2
Preparation of tert-butyl 4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidine-1-carboxylate
In a manner similar to the procedure described for step 7 of the preparation of Example 330 and using 2-benzyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole and tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate as starting material, 411 mg (95.6%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.06 (s, 1H), 8.94 (s, 1H), 8.92 (d, 1 H), 7.49 (d, 1H), 7.37-7.45 (m, 5 H), 6.59 (s, 1H), 4.49 (s, 2 H), 4.25 (m, 2 H), 3.42 (m, 1H), 2.94 (m, 2H), 2.11 (m, 2H), 1.76-1.64 (m, 2 H), 1.48 (s, 9H); LC-MS m/z [M+H]+541.2, RT 3.37 min.

reactant | 2-benzyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C20H22BNO2S
reactant | tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)Br | C16H22BrN5O2
product | tert-butyl 4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidine-1-carboxylate | 411 mg, 95.6% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)C=2C=CC1=C(N=C(S1)CC1=CC=CC=C1)C2 | C30H32N6O2S
